US04342765
To a solution of 1-[3-(2-guanidinothiazol-4-yl)cyclohexylamino]-2-methoxycyclobutene-3,4-dione (0.1 g.) in 15 ml. of methanol/chloroform (50:50 v/v) was added a solution of 2-guanidino-4-(3-aminocyclohexyl)thiazole (0.07 g.) in methanol (3 ml.) and the resulting solution was allowed to stand at room temperature for 6 hours. After heating under reflux for 6 hours, the reaction mixture was concentrated and cooled to give, as a white amorphous solid, 1,2-bis[3-(2-guanidinothiazol-4-yl)cyclohexylamino]cyclobutene-3,4-dione. The carbon-13 magnetic resonance spectrum (δ relative to tetramethylsilane) in d6DMSO included one carbon singlets at 181.9, 175.0 167.0, 156.8, 155.4, 100.3, 52.4 and a series of signals from 52.4 to 24.1 (including resonances attributable to solvent) p.p.m.

reactant | 1-[3-(2-guanidinothiazol-4-yl)cyclohexylamino]-2-methoxycyclobutene-3,4-dione | 0.1 g | N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)NC1=C(C(C1=O)=O)OC | C15H19N5O3S
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
reactant | 2-guanidino-4-(3-aminocyclohexyl)thiazole | 0.07 g | N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)N | C10H17N5S
solvent | methanol | 3 ml | CO | CH4O
product | 1,2-bis[3-(2-guanidinothiazol-4-yl)cyclohexylamino]cyclobutene-3,4-dione | N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)NC1=C(C(C1=O)=O)NC1CC(CCC1)C=1N=C(SC1)NC(=N)N | C24H32N10O2S2
